US08466199B2
The reaction of ethyl 4-hydroxybenzoate and 3,3-dimethylallyl bromide in 2-butanone in the presence of potassium carbonate was performed as described in Example 2 to give 4-(3-Methyl-but-2-enyloxy)-benzoic acid as white powder. 1H-NMR (400 MHz, d6-DMSO): 12.54 (s, —CO2H); 7.81 (d-like, 2 arom.H); 6.95 (d-like, 2 arom.H); 5.38 (m, CH═C(CH3)2); 4.54 (d-like, CH2CH═C(CH3)2); 1.69, 1.64 (2s, CH═C(CH3)2). 13C-NMR (100 MHz, d6-DMSO): 166.96 (C═O); 162.05; 137.66; 131.25 (2 arom. C); 122.78; 119.38; 114.36 (2 arom.C); 64.58; 25.37; 17.99.

reactant | ethyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | 3,3-dimethylallyl bromide | CC(=CCBr)C | C5H9Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 4-(3-Methyl-but-2-enyloxy)-benzoic acid | CC(=CCOC1=CC=C(C(=O)O)C=C1)C | C12H14O3
